US05686452
In a mixed solution of 30 ml of ethyl acetate and 30 ml of tetrahydrofuran was suspended 3.22 g of 2-aminomethyl-5-[pyridazin-3(2H)-on-6-yl]indane hydrobromide. A sodium carbonate aqueous solution (5.30 g/30 ml of water) was added to the suspension. Under ice cooling, 3.32 g of ethanesulfonyl chloride dissolved in 10 ml of tetrahydrofuran was added to the mixture, and the resulting mixture was stirred for 3 hours. 300 ml of ethyl acetate was added to the mixture. After the organic layer was collected by separation, washed with water and dried, and the solvent was removed. The residue was purified by silica gel column chromatography (chloroform-methanol (100:3)) to obtain 2.75 g of 2-(ethylsulfonylaminomethyl)-5-[pyridazin-3(2H)-on-6-yl]indane.

reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-aminomethyl-5-[pyridazin-3(2H)-on-6-yl]indane hydrobromide | 3.22 g | Br.NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O
reactant | sodium carbonate | 30 ml, 5.30 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethanesulfonyl chloride | 3.32 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 2-(ethylsulfonylaminomethyl)-5-[pyridazin-3(2H)-on-6-yl]indane | 2.75 g | C(C)S(=O)(=O)NCC1CC2=CC=C(C=C2C1)C=1C=CC(NN1)=O | C16H19N3O3S
